US03931235
A solution, consisting of 6.00 g. (0.0236 mole) of 3-cyclohexylmethylthio-4-hydroxy-6-methyl-2-pyrone and 2.67 g. (0.0236 mole) of 30% hydrogen peroxide in 30 ml. of glacial acetic acid, was allowed to stand at room temperature for 26 hours, after which period of time it was poured into ice water, giving a white solid precipitate, which was collected on a filter and dried in vacuo over calcium chloride. The crude product weighed 5.8 g. (91 percent) and melted at 132.5°-133.5°C. Recrystallization from ethanol gave the pure 3-cyclohexylmethylsulfinyl-4-hydroxy-6-methyl-2-pyrone as white needles, m.p. 137°-138°C.

reactant | 3-cyclohexylmethylthio-4-hydroxy-6-methyl-2-pyrone | 0.0236 mole | C1(CCCCC1)CSC=1C(OC(=CC1O)C)=O | C13H18O3S
reactant | hydrogen peroxide | 0.0236 mole | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-cyclohexylmethylsulfinyl-4-hydroxy-6-methyl-2-pyrone | C1(CCCCC1)CS(=O)C=1C(OC(=CC1O)C)=O | C13H18O4S
